US07265109B2
(S)-2-{[5-(2-Ethyl-benzoyl)-thiazol-2-ylamino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of 2-(S)-(3-dimethylaminomethylene-thioureidomethyl)-pyrrolidine-1-carboxylic acid 1,1-dimethylethyl ester (150 mg) in N,N-dimethylformamide (2 ml) was added 2-bromo-1-(2-ethylphenyl)-ethanone (109 mg). The mixture was stirred 65 h at room temperature, diluted with dichloromethane, washed twice with water, once with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (2:1 ethyl acetate/hexane eluant) to afford the product as yellow oil (129 mg, 65%).

reactant | 2-(S)-(3-dimethylaminomethylene-thioureidomethyl)-pyrrolidine-1-carboxylic acid 1,1-dimethylethyl ester | 150 mg | CC(C)(C)OC(=O)N1[C@@H](CCC1)CNC(=S)N=CN(C)C | C14H26N4O2S
reactant | 2-bromo-1-(2-ethylphenyl)-ethanone | 109 mg | BrCC(=O)C1=C(C=CC=C1)CC | C10H11BrO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-2-{[5-(2-Ethyl-benzoyl)-thiazol-2-ylamino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 129 mg, 65% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CNC=1SC(=CN1)C(C1=C(C=CC=C1)CC)=O | C22H29N3O3S
